US07001897B2
To a solution of (carbamoylmethyl)carbamic acid t-butyl ester (717.2 mg, 4.12 mmol) (obtained as described in Reference Example 45(1)) in 1,4-dioxane (7.2 ml) was added a solution of 4N hydrogen chloride in 1,4-dioxane (7.2 ml) in an ice bath. The reaction mixture was stirred at room temperature overnight. After checking the completion of the reaction, diethyl ether was added thereto, and the reaction mixture was stirred for 30 minutes. The resulting reaction mixture was filtered, and the obtained residue was washed with diethyl ether and dried to give glycinamide hydrochloride (389 mg, yield 86%) as white crystals. Subsequently, to a suspension of p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate (566.6 mg, 0.85 mmol) (obtained as described in Reference Example 41(7)) and glycinamide hydrochloride (154.3 mg, 1.40 mmol) (obtained as described above) in dimethylformamide (28.0 ml) were added diethylphosphoryl cyanide (0.2 ml, 1.32 mmol) and triethylamine (0.36 ml, 2.6 mmol) in an ice bath under an atmosphere of nitrogen. The mixture was stirred at room temperature for 5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed successively with 0.5M aqueous hydrochloric acid solution, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (2:3) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(carbamoylmethyl)carbamoyl-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methyl-carbapen-2-em-3-carboxylate (428.6 mg, yield 70%) as a pale yellow solid.

reactant | p-nitrobenzyl (1R,5S,6S)-2-[1-(4-carboxy-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.85 mmol, 566.6 mg | C(=O)(O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C30H38N4O8S2Si
reactant | glycinamide hydrochloride | 1.40 mmol, 154.3 mg | Cl.NCC(=O)N
reactant | diethylphosphoryl cyanide | 1.32 mmol, 0.2 ml | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 2.6 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 28.0 ml | CN(C=O)C | C3H7NO
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(carbamoylmethyl)carbamoyl-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-t-butyldimethylsilyloxyethyl]-1-methyl-carbapen-2-em-3-carboxylate | 428.6 mg, yield 70% | C(N)(=O)CNC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C32H42N6O8S2Si
